US04172943
{[10-Hydroxy-5,5-dimethyl-8-(1,2-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridin-2-yl]-α-methylacetyl}urea (XI)
A solution of 1.66 g. (0.011 mole) of 2-chloropropionylurea in 20 ml. of dimethylformamide was added dropwise to a stirred solution of 3.57 g. (0.01 mole) of 10-hydroxy-5,5-dimethyl-8-(1,2-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridine in 20 ml. of dimethylformamide and 1.11 g. (0.011 mole) of triethylamine. The reaction mixture was stirred at room temperature for 72 hours, diluted with 60 ml. of water, and extracted with ether. The ether extracts were washed with water, dried over anhydrous sodium sulfate, and evaporated in vacuo. The residue was purified by chromatography on a 100-200 mesh Florisil activated magnesium silicate column and chloroform; m.p. 95°-100°.

reactant | 2-chloropropionylurea | 0.011 mole | ClC(C(=O)NC(=O)N)C | C4H7ClN2O2
reactant | 10-hydroxy-5,5-dimethyl-8-(1,2-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridine | 0.01 mole | OC1=CC(=CC2=C1C=1CNCCC1C(O2)(C)C)C(C(CCCCC)C)C | C23H35NO2
reactant | triethylamine | 0.011 mole | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | {[10-Hydroxy-5,5-dimethyl-8-(1,2-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridin-2-yl]-α-methylacetyl}urea | OC1=CC(=CC2=C1C=1CN(CCC1C(O2)(C)C)C(C(=O)NC(=O)N)C)C(C(CCCCC)C)C | C27H41N3O4
